data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_379998_1,[C:1](\[C:3]([H:14])([H:15])[H:16])([C:5]([C:4]([H:17])([H:18])[H:19])([O:7][C:2]([H:11])([H:12])[H:13])[O:8][H:9])=[N:6]\[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])([N:6]([H:9])[H:10])[O:7][C:2]([H:11])([H:12])[H:13],29.28165999997759
MR_256347_1,[C:1]([C:4]([H:17])([H:18])[H:20])([C:5]1([C:2]([C:3]([H:15])([H:16])[H:19])([H:13])[H:14])/[C:6](=[N:8]/[H:10])[N:7]1[H:9])([H:11])[H:12]>>[C:1]([C:4]([H:17])([H:18])[H:20])([C:6](/[C:5]([C:2]([C:3]([H:15])([H:16])[H:19])([H:13])[H:14])=[N:7]/[H:9])=[N:8]\[H:10])([H:11])[H:12],63.2482349999691
MR_152154_0,[C@@:1]([C:2]([H:10])([H:11])[H:12])(/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]\[H:9])([O:5][H:7])[H:8]>>[C@:1]1([C:2]([H:10])([H:11])[H:12])([O:5][H:7])[C@@:4]([C:3]([H:13])([H:14])[H:15])([H:8])[N:6]1[H:9],71.87824250001
MR_431063_1,[C:1](/[C:2](=[N:6]/[H:10])[H:14])([N:4]([C:5]([C:3]([H:16])([H:17])[H:18])([N:7]([H:9])[H:11])[H:15])[H:8])([H:12])[H:13]>>[C:1]([C:2]([N:6]([H:10])[H:11])([H:14])[H:15])([N:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[H:9])[H:8])([H:12])[H:13],45.47931750003073
MR_649229_0,[N:1](/[N:5]=[N:4]/[N:6]=[C:3](\[N:2]([H:9])[H:10])[H:11])([H:7])[H:8]>>[N:1]([N:5]1[C:3]([N:2]([H:9])[H:10])([H:11])[N:6]=[N:4]1)([H:7])[H:8],46.49398500003713
MR_22132_0,[C:1](/[C:3](=[C:4](/[C:2]([H:12])([H:13])[H:14])[H:11])[O:5][H:7])([O:6][H:8])([H:9])[H:10]>>[C:1](=[C:3](/[C:4]([C:2]([H:12])([H:13])[H:14])([H:10])[H:11])[O:5][H:7])(\[O:6][H:8])[H:9],71.21058250001923
MR_442386_2,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:8]/[O:5][O:6][H:9])[O:7][H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3]([O:7][H:10])/[N:8]=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:5][O:6][H:9])([H:11])([H:12])[H:13],64.13552000001175
MR_364372_0,[C:1](/[N:9]=[C:3](\[C:4]([C:5]([C:2]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])[O:8][H:10])([H:15])([H:16])[H:17]>>[C:1]([N:9]1[C:3]([O:8][H:10])=[C:4]([N:6]([H:11])[H:12])[C@:5]1([C:2]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17],42.235770000015975
MR_540131_0,[C:1]([C:3](=[C:5]([H:14])[H:15])/[N:7]=[C:2](/[N:4]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[N:7][C:2]([N:4]([H:9])[H:10])([O:6][H:8])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],40.61932999999513
MR_623648_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[H:11])([O:7][H:9])[N:8]1[H:14]>>[C:1]([C:3]([H:15])([H:16])[H:17])(/[C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[H:11])=[N:8]\[H:14])([O:7][H:9])[H:10],65.11693000003078
MR_446969_2,[C:1]1([H:12])([H:13])[N:2]([O:6][H:9])[C:4]([O:8][H:11])=[C:3]([O:7][H:10])[O:5]1>>[C:1]1([H:12])([H:13])[C@:3](/[C:4](=[N:2]\[O:6][H:9])[O:8][H:11])([O:7][H:10])[O:5]1,47.47539500002048
MR_580173_0,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](/[N:4]([C:3]([H:16])([H:17])[H:18])[H:11])[O:8][C:6](=[O:9])[H:12])[O:7][H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]([N:4]([C:3]([H:16])([H:17])[H:18])[H:11])=[O:8])([C:6](=[O:9])[H:12])[O:7][H:10],27.576742500001785
MR_464050_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:4]([N:5]([H:10])[H:11])=[C:6](/[O:7][H:8])[H:12])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:6](=[C:4](\[N:5]([H:10])[H:11])[O:7][H:8])[H:12])[H:9],67.00445000000926
MR_234524_2,[C:1]([C:3]([O:7][H:10])=[O:9])([N:4]([H:12])[H:13])([N:5]([H:11])[H:14])/[N:8]=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15]>>[C:1]1([N:4]([H:12])[H:13])([N:5]([H:11])[H:14])[C@:6]([C:2]([H:16])([H:17])[H:18])([H:15])[N:8]1[C:3]([O:7][H:10])=[O:9],45.30424500000905
MR_566831_1,[C:1]([C:2]([H:13])([H:14])[H:15])([O:6][H:10])([O:7][H:9])/[N:8]=[C:4](/[C:3]([H:16])([H:17])[H:18])[N:5]([H:11])[H:12]>>[C:1](\[C:2]([H:13])([H:14])[H:15])([O:7][H:9])=[N:8]\[C@@:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:11])[H:12])[O:6][H:10],45.29169500000506
MR_94643_2,[C:1]([C:2]([H:12])([H:13])[H:14])([O:6][H:8])([O:7][C:3]([N:4]([H:10])[H:11])=[O:5])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][C:3]([N:4]([H:10])[H:11])=[O:7])([O:6][H:8])[H:9],44.00469250000853
MR_391019_2,[C:1]([O:7][C:3]([C:2]([H:15])([H:16])[H:17])=[C:4]([N:5]([H:8])[H:11])[N:6]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]1([C:2]([H:15])([H:16])[H:17])[C:4]([N:5]([H:8])[H:11])([N:6]([H:9])[H:10])[O:7]1)([H:12])([H:13])[H:14],66.92915000002102
MR_174336_1,[C:1]([C:5]1([H:12])[C:3]([H:10])=[N:6][C:2]2([H:9])[C:4]1([H:11])[N:7]2[H:8])([H:13])([H:14])[H:15]>>[C:1](/[C:5](=[C:3](\[N:6]=[C:2]([C:4](=[N:7]/[H:8])/[H:11])\[H:9])[H:10])[H:12])([H:13])([H:14])[H:15],45.671960000008056
MR_415699_0,[C:1]1([C:2]([H:10])([H:11])[H:12])([O:6][C:3]([O:7][H:9])=[O:8])[O:4][O:5]1>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:4][O:5][C:3]([O:7][H:9])=[O:8])=[O:6],37.844524999974
